US07320986B2
1-(4-bromobenzoyl)-1H-imidazole
To a solution of 4-bromo-benzoic acid (19.55 g, 97.3 mmol) in DMF (100 mL) was added 1,1′-carbonyldiimidazole (39.42 g, 243.2 mmol) slowly at room-temperature under N2. After 2 hours, the reaction was completed and poured into ice water (1 L). The precipitate was filtered, washed with water (2 L), and dried in vacuo to give the desired product (16.7 g, 68%). MS (DCI/NH3) m/z 252 (M+H)+; 1H NMR (300 MHz, DMSO-D6) δ ppm 7.02 (s, 1H) 7.17 (s, 1H) 7.63-7.90 (m, 4H) 8.21 (s, 1H).

reactant | 4-bromo-benzoic acid | 97.3 mmol, 19.55 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | 1,1′-carbonyldiimidazole | 243.2 mmol, 39.42 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-(4-bromobenzoyl)-1H-imidazole | 16.7 g, 68% | BrC1=CC=C(C(=O)N2C=NC=C2)C=C1 | C10H7BrN2O
